US08895745B2
Step 1: Imidazo[1,2-a]pyridine-7-carbonitrile
Chloroacetaldehyde (˜50% in H2O, 3.24 ml, 26 mmol) was added to a stirred mixture of 2-amino-isonicotinonitrile (1.6 g, 3.4 mmol) and NaHCO3 (2.23 g, 26.5 mmol) in ethanol (20 ml) at RT under N2. The reaction was stirred and heated at 80° C. for 18 hours. After cooling to RT the volatiles were removed in vacuo and the residue was partitioned between EtOAc/H2O. This mixture was filtered to remove some dark insoluble residue. The solid was washed with MeOH. The aqueous layer was extracted with EtOAc (×2). The combined EtOAc extracts were dried (Na2SO4) and filtered. The MeOH washings were added and the volatiles were removed in vacuo. The residue was purified by chromatography on silica: 100% DCM→1% 2M NH3-MeOH/DCM to give the title product. 1H NMR (400 MHz, DMSO-d6): 8.74 (1H, dd), 8.35 (1H, s), 8.19 (1H, s), 7.86 (1H, s), 7.21 (1H, dd).

reactant | Chloroacetaldehyde | 26 mmol, 3.24 ml | ClCC=O | C2H3ClO
reactant | 2-amino-isonicotinonitrile | 3.4 mmol, 1.6 g | NC=1C=C(C#N)C=CN1 | C6H5N3
reactant | NaHCO3 | 26.5 mmol, 2.23 g | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Imidazo[1,2-a]pyridine-7-carbonitrile | N=1C=CN2C1C=C(C=C2)C#N | C8H5N3
